US08466282B2
Tert-butyl (4-methoxybutyl)(3-methoxy-2-nitrophenyl)carbamate
tert-Butyl (3-methoxy-2-nitrophenyl)carbamate (3.00 g) and 4-methoxybutyl methanesulfonate (3.06 g) were dissolved in dimethylformamide (40 ml), cesium carbonate (7.30 g) was added, and the mixture was stirred at 65° C. for 4 hr. The reaction mixture was concentrated under reduced pressure, diluted with water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, and a fraction eluted with ethyl acetate-hexane (5:95-7:3) was concentrated under reduced pressure to give the object product (2.11 g).

reactant | tert-Butyl (3-methoxy-2-nitrophenyl)carbamate | 3.00 g | COC=1C(=C(C=CC1)NC(OC(C)(C)C)=O)[N+](=O)[O-] | C12H16N2O5
reactant | 4-methoxybutyl methanesulfonate | 3.06 g | CS(=O)(=O)OCCCCOC | C6H14O4S
reactant | cesium carbonate | 7.30 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | Tert-butyl (4-methoxybutyl)(3-methoxy-2-nitrophenyl)carbamate | 2.11 g | COCCCCN(C(OC(C)(C)C)=O)C1=C(C(=CC=C1)OC)[N+](=O)[O-] | C17H26N2O6
